US03983243
To 65 g. of 3,7,10,11-tetramethyl-2,6,10-dodecatrienoic acid ethyl ester in 270 ml. of absolute benzene there was added in a period of one hour under ice cooling, 68 ml. of a 70% by weight benzene solution of sodium dihydro-bis-(2-methoxyethoxy-aluminate). This addition was carried out dropwise. After this addition, the reaction mixture was allowed to stand for one hour at room temperature under constant stirring. The reaction solution is broken up by the addition of water while it is cooled with ice. After the addition of water, the reaction mixture is filtered and poured over a saturated aqueous sodium chloride solution. The resulting reaction mixture is then exhaustively extracted with benzene. The combined benzene extracts are washed several times with water, dried over sodium sulfate and evaporated. Distillation yields pure 3,7,10,11-tetramethyl-2,6,10-dodecatrien-1-ol, b.p. 94°-96°C.10.03 mmHg; nD20 = 1.4946.

reactant | 3,7,10,11-tetramethyl-2,6,10-dodecatrienoic acid ethyl ester | C(C)OC(C=C(CCC=C(CCC(=C(C)C)C)C)C)=O | C18H30O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 3,7,10,11-tetramethyl-2,6,10-dodecatrien-1-ol | CC(=CCO)CCC=C(CCC(=C(C)C)C)C | C16H28O
